US07943567B2
Referring to scheme (1) above, pentane (300 mL) can be placed in a 500 mL three neck flask and chilled below −30° C. To the pentane can be added hexafluoroacetone (59 grams, 0.36 mole), propylene (16.2 grams, 0.38 mole), and anhydrous aluminum trichloride (0.77 g, 0.006 mole) to form a mixture. This mixture can be stirred and the temperature can be allowed to warm to room temperature over a 3 hour period. A 15% (wt/wt) aqueous HCl solution (20 mL) can be added to the mixture, and the mixture can be washed 3 times with H2O. The aqueous layer, after the wash, can be decanted off, and the organic layer (pentane and propylene) can be dried with MgSO4. Remaining pentane and propylene can be flash vaporized off at 60° C. to give 54.4 grams (70% area percent by gas chromatography) of isomeric 1,1-bis(trifluoromethyl)-3-penten-1-ol.

reactant | hexafluoroacetone | 0.36 mole, 59 grams | FC(C(=O)C(F)(F)F)(F)F | C3F6O
reactant | propylene | 0.38 mole, 16.2 grams | C=CC | C3H6
reactant | HCl | 20 mL | Cl | ClH
reactant | pentane | CCCCC | C5H12
reactant | pentane | 300 mL | CCCCC | C5H12
catalyst | aluminum trichloride | 0.006 mole, 0.77 g | [Cl-].[Cl-].[Cl-].[Al+3]
product | 1,1-bis(trifluoromethyl)-3-penten-1-ol | 54.4 grams, 70% | FC(C(CC=CC)(O)C(F)(F)F)(F)F | C7H8F6O
